Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
L little finger pain
 
Major Surgical or Invasive Procedure:
___: L little finger washout

 
History of Present Illness:
Ms. ___ is a ___ yo LHD F who presents after a cat bite L 
little finger 3 weeks ago. Patient states she initially noticed 
some erythema, swelling however it improved over the course of a 
week. Patient states that over the last week she has noticed 
increasing swelling along entire finger along with erythema and 
tenderness. Patient states that she has had pain with attempted 
extension of finger. Denies fevers, chills. No drainage from 
area.  She denies any possibility of foreign body in finger.
 
Past Medical History:
PMH: Raynaud's syndrome, CTS

PSH: None

Meds: Adderall

Allergies: NKDA

Social: ___
Family History:
Non-contributory
 
Physical Exam:
Physical Exam:
General: Awake and alert in no apparent distress. 
Cardiac: Regular rate, rhythm
Pulm: No respiratory distress
GI: Non-distended, non-tender
MSK: LUE - Hand in splint. Clean/dry/intact. no active drainage. 
Mild tenderness to palpation.
 
Pertinent Results:
___ 06:15AM BLOOD WBC-9.0 RBC-4.31 Hgb-13.2 Hct-39.1 MCV-91 
MCH-30.6 MCHC-33.8 RDW-13.0 RDWSD-42.7 Plt ___
___ 02:49PM BLOOD ___ PTT-19.5* ___
___ 01:00PM BLOOD Glucose-83 UreaN-11 Creat-0.7 Na-139 
K-4.4 Cl-104 HCO3-26 AnGap-13
___ 01:00PM BLOOD CRP-0.6
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a L little finger washout.  The patient 
tolerated the procedure well.  Please see operative report for 
full procedure and findings.  There was no obvious pus within 
the tendon sheath. Fluid and tissue was sent for cultures. The 
patient was closed primarily in the OR and placed in a splint. 

Neuro: Post-operatively, the patient received oral pain 
medication with IV pain medication as needed for breakthrough 
pain. She was transitioned to only PO pain medication prior to 
discharge

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.

GI/GU: Her diet was advanced when appropriate, which was 
tolerated well. She was also started on a bowel regimen to 
encourage bowel movement. 

ID: Upon presentation in ED patient was initially started on 
unasyn for presumed infection. She subsequently developed a full 
body rash, and was therefore transitioned to clindamycin.  Wound 
cultures were taken in the operating room, and upon discharge 
were still pending.  Patient will be told of results.

Prophylaxis: The patient was encouraged to get up and ambulate 
as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs, tolerating a regular diet, ambulating, 
voiding without assistance, and pain was well controlled.

 
Medications on Admission:
Adderall
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Clindamycin 300 mg PO Q6H Duration: 7 Days 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth Every 6 hours 
Disp #*28 Capsule Refills:*0
3. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 to 2 tablet(s) by mouth 
Every 4 hours Disp #*25 Tablet Refills:*0
4. Ibuprofen 600 mg PO Q8H 
5. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth Twice daily Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left finger infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Followup Instructions:
___